US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-phthalimidoethoxy)carbonylpyridine
Prepared by a method analogous to that of Example 1(a) from 13.0 g (48 mmol) of 2-(2,3-dichlorobenzylidene)-acetoacetic acid methyl ester and 13.1 g (48 mmol) of 3-amino-crotonic acid-(2-phthalimido ethyl)ester. 14.2 g (57%) of pale yellow crystals melting at 195°-196° C.

reactant | 2-(2,3-dichlorobenzylidene)-acetoacetic acid methyl ester | 48 mmol, 13.0 g | COC(C(C(=O)C)=CC1=C(C(=CC=C1)Cl)Cl)=O | C12H10Cl2O3
reactant | 3-amino-crotonic acid-(2-phthalimido ethyl)ester | 48 mmol, 13.1 g | C1(C=2C(C(N1CCOC(\C=C(\C)/N)=O)=O)=CC=CC2)=O | C14H14N2O4
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-phthalimidoethoxy)carbonylpyridine | CC=1NC(=C(C(C1C(=O)OC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C26H22Cl2N2O6
